US08912330B2
tert-butyl 4-[4-(1-hydroxy-1H-pyrrolo[3,2-b]pyridin-6-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate:
tert-butyl 4-(4-{6-[(E)-2-(dimethylamino)ethenyl]-5-nitropyridin-3-yl}-1H-pyrazol-1-yl)piperidine-1-carboxylate (366 mg, 0.81 mmol) and SnCl2.2H2O (966 mg, 4.26 mmol, 5.0 eq) in 3 ml of EtOAc were stirred at r.t. for 2 hours. EtOAc and water were added and layers were separated. The aqueous layer was extracted with EtOAc, washed with sat. NH4Cl and brine. After evaporation, the crude product was chromatographed (Mesh/DCM 1:20) to give a yellow solid, 170 mg, in 54% yield.

reactant | tert-butyl 4-(4-{6-[(E)-2-(dimethylamino)ethenyl]-5-nitropyridin-3-yl}-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.81 mmol, 366 mg | CN(/C=C/C1=C(C=C(C=N1)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-])C | C22H30N6O4
reactant | SnCl2.2H2O | 4.26 mmol, 966 mg, 5.0 eq | O.O.Cl[Sn]Cl
reactant | water | O | H2O
solvent | EtOAc | 3 ml | CCOC(=O)C | C4H8O2
product | tert-butyl 4-[4-(1-hydroxy-1H-pyrrolo[3,2-b]pyridin-6-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | 54% yield | ON1C=CC2=NC=C(C=C21)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C20H25N5O3
